US04992449
Cis-7-[(2-Aminocyclohexyl)amino]1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A mixture of 1.33 g of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid and 1.73 g of cis-1,2-diaminocyclohexane in 10 ml of pyridine was heated in an oil bath of 115° C. for 1 hour then filtered while hot. Cooling the filtrate afforded 1.09 g of the desired product, m.p. 270°-274° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.33 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | cis-1,2-diaminocyclohexane | 1.73 g | N[C@H]1[C@H](CCCC1)N | C6H14N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Cis-7-[(2-Aminocyclohexyl)amino]1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 1.09 g | N[C@@H]1[C@@H](CCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C19H22FN3O3
